US07507736B2
4-[1-(2,2-Difluoro-ethyl)-5-(1-isopropyl-piperidin-4-yloxy)-1H-indol-2-carbonyl]-piperazine-1-carboxylic acid diethylamide
The title compound was prepared in analogy to example 51, from [1-(2,2-difluoro-ethyl)-5-(1-isopropyl-piperidin-4-yloxy)-1H-indol-2-yl]-piperazin-1-yl-methanone hydrochloride and N,N-diethylcarbamoyl chloride. Off-white solid. MS (m/z): 534.3 (M+H)+.

reactant | [1-(2,2-difluoro-ethyl)-5-(1-isopropyl-piperidin-4-yloxy)-1H-indol-2-yl]-piperazin-1-yl-methanone hydrochloride | Cl.FC(CN1C(=CC2=CC(=CC=C12)OC1CCN(CC1)C(C)C)C(=O)N1CCNCC1)F
reactant | N,N-diethylcarbamoyl chloride | C(C)N(C(=O)Cl)CC | C5H10ClNO
product | 4-[1-(2,2-Difluoro-ethyl)-5-(1-isopropyl-piperidin-4-yloxy)-1H-indol-2-carbonyl]-piperazine-1-carboxylic acid diethylamide | C(C)N(C(=O)N1CCN(CC1)C(=O)C=1N(C2=CC=C(C=C2C1)OC1CCN(CC1)C(C)C)CC(F)F)CC | C28H41F2N5O3
